US06727264B1
1-(2-CHLOROPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 1-chloro-2-iodobenzene: ESMS m/e: 227.9 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-chloro-2-iodobenzene | ClC1=C(C=CC=C1)I | C6H4ClI
product | 1-(2-CHLOROPHENYL)-1H-INDOLE | ClC1=C(C=CC=C1)N1C=CC2=CC=CC=C12 | C14H10ClN
